US06555541B1
(+/−)-2-(3-Chloro4-fluoro-phenylamino)-N-[2-methyl-5-(piperidin-4-yloxy)-phenyl]-acetamide, dihydrochloride
To a solution of 2-(3-chloro-4-fluoro-phenylamino)-N-(5-hydroxy-2-methyl-phenyl)acetamide (0.10 g) and 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (Synlett. 1998, 4, 379) (0.163 g) in tetrahydrofuran (3 ml) was added tributylphosphine (0.20 ml) and 1,1′-(azodicarbonyl)dipiperidine (0.204 g) and the mixture heated at 60° C. for 3 hours. Further 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.163 g), tributylphosphine (0.20 ml) and 1,1′-(azodicarbonyl)dipiperidine (0.204 g) were then added and the heating continued. After 3 hours, the reaction was cooled, poured into diethyl ether and filtered through Celite. After concentration, the residue was purified by NPHPLC (eluting with 0-5% ethanol in dichloromethane) to afford a white solid that was dissolved in methanol (3 ml) and HCl (2 ml of a 4M solution in dioxane) added. After 24 hours, the crystals were filtered off, washed with dichloromethane and dried in vacuo to give the title compound as a white powder (0.080 g).

reactant | 2-(3-chloro-4-fluoro-phenylamino)-N-(5-hydroxy-2-methyl-phenyl)acetamide | 0.10 g | ClC=1C=C(C=CC1F)NCC(=O)NC1=C(C=CC(=C1)O)C | C15H14ClFN2O2
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.163 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | tributylphosphine | 0.20 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.204 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.163 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | tributylphosphine | 0.20 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.204 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (+/−)-2-(3-Chloro4-fluoro-phenylamino)-N-[2-methyl-5-(piperidin-4-yloxy)-phenyl]-acetamide, dihydrochloride | 0.080 g | Cl.Cl.ClC=1C=C(C=CC1F)NCC(=O)NC1=C(C=CC(=C1)OC1CCNCC1)C | InChI=1S/C20H23ClFN3O2.2ClH/c1-13-2-4-16(27-15-6-8-23-9-7-15)11-19(13)25-20(26)12-24-14-3-5-18(22)17(21)10-14;;/h2-5,10-11,15,23-24H,6-9,12H2,1H3,(H,25,26);2*1H
